US09403798B2
1-[(2H-Indazol-2-yl)methyl]-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one
To a dichloromethane solution of {4-[4-(4-fluorophenyl)piperazin-1-yl]-2-oxo-1,3,5-triazin-1(2H)-yl}methyl 4-methylbenzenesulfonate (165 mg, 0.36 mmol) synthesized in Reference Synthesis Example 4, 1,8-diazabicyclo[5.4.0]undeca-7-ene (65 μL, 0.44 mmol) and 1H-indazole (43 mg, 0.40 mmol) were added at room temperature and the resultant mixture was stirred at room temperature for 30 minutes. After the completion of the reaction, the reaction solution was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (ethyl acetate) to obtain the title compound (8.5 mg, yield: 5.2%).

reactant | {4-[4-(4-fluorophenyl)piperazin-1-yl]-2-oxo-1,3,5-triazin-1(2H)-yl}methyl 4-methylbenzenesulfonate | 0.36 mmol, 165 mg | CC1=CC=C(C=C1)S(=O)(=O)OCN1C(N=C(N=C1)N1CCN(CC1)C1=CC=C(C=C1)F)=O | C21H22FN5O4S
reactant | 1,8-diazabicyclo[5.4.0]undeca-7-ene | 0.44 mmol, 65 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1H-indazole | 0.40 mmol, 43 mg | N1N=CC2=CC=CC=C12 | C7H6N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[(2H-Indazol-2-yl)methyl]-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 8.5 mg, yield: 5.2% | N=1N(C=C2C=CC=CC12)CN1C(N=C(N=C1)N1CCN(CC1)C1=CC=C(C=C1)F)=O | C21H20FN7O
